US07977342B2
[2-(5-Chloro-2-fluoro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-(3-methyl-pyridin-4-yl)-amine
4-Chloro-2-(5-chloro-2-fluoro-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (30 mg, 0.106 mmole), cesium carbonate (48.5 mg, 0.149 mmole), palladium (II) acetate (1.19 mg, 0.0053 mmole), BINAP (4.96 mg, 0.0080 mmole), and 4-amino-picoline (13.8 mg, 0.128 mmole) were combined in 4 ml dioxane (anh.) and heated to 90° C. with stirring overnight. The reaction mixture was filtered to remove solid material, the filtrate was evaporated to dryness, the residue was dissolved in chloroform (8 ml), washed with 0.5 M sodium hydroxide (1 ml), dried over sodium sulfate (anh.), evaporated to dryness, and then the residue was redissolved in dimethylformamide and purified by reversed phase HPLC. The product was isolated.

reactant | 4-Chloro-2-(5-chloro-2-fluoro-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.106 mmole, 30 mg | ClC1=NC(=NN2C1=CC=C2)C2=C(C=CC(=C2)Cl)F | C12H6Cl2FN3
reactant | cesium carbonate | 0.149 mmole, 48.5 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.0080 mmole, 4.96 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 4-amino-picoline | 0.128 mmole, 13.8 mg | NC1=CC(=NC=C1)C | C6H8N2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | palladium (II) acetate | 0.0053 mmole, 1.19 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [2-(5-Chloro-2-fluoro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-(3-methyl-pyridin-4-yl)-amine | ClC=1C=CC(=C(C1)C1=NN2C(C(=N1)NC1=C(C=NC=C1)C)=CC=C2)F | C18H13ClFN5
